US08012974B2
HCl 4M in dioxane (5 mL) was added at RT to a solution of racemic trans acetic acid 3-tert-butoxycarbonylamino-cyclohexylmethyl ester (theoretically 7.37 mmol) in 10 mL of DCM. The resulting mixture was stirred at RT for 4 hours before being evaporated to give 1.5 g of racemic trans acetic acid-3-amino-cyclohexylmethyl ester hydrochloride (>95% yield).

reactant | HCl | 4M | Cl | ClH
reactant | racemic trans acetic acid 3-tert-butoxycarbonylamino-cyclohexylmethyl ester | C(C)(C)(C)OC(=O)N[C@@H]1C[C@H](CCC1)COC(C)=O | C14H25NO4
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | racemic trans acetic acid-3-amino-cyclohexylmethyl ester hydrochloride | 1.5 g, >95% yield | Cl.N[C@@H]1C[C@H](CCC1)COC(C)=O | InChI=1S/C9H17NO2.ClH/c1-7(11)12-6-8-3-2-4-9(10)5-8;/h8-9H,2-6,10H2,1H3;1H/t8-,9-;/m0./s1
